US04922027
The general method for the preparation of the starting enol esters is illustrated by the following example: 0.063M of 3,3,7-trimethyl-oct-6-ene-1-al were added under stirring to a mixture consisting of 0.06M of triethylamine, 0.126M of acetic anhydride and 1.1 g of potassium acetate pre-heated to 80°. The reactive mixture was refluxed for approximately 7 h. After cooling to room temperature, toluene and water were added and the two phases separated. 3,3,7-Trimethyl-1,6-octadienyl acetate was then obtained as a toluene solution and finally isolated by evaporation at reduced pressure.

reactant | 3,3,7-trimethyl-oct-6-ene-1-al | 0.063M | CC(CC=O)(CCC=C(C)C)C | C11H20O
reactant | triethylamine | 0.06M | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.126M | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 1.1 g | C(C)(=O)[O-].[K+]
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,3,7-Trimethyl-1,6-octadienyl acetate | C(C)(=O)OC=CC(CCC=C(C)C)(C)C | C13H22O2
